US08629167B2
Methyl 1H-indole-4-carboxylate
To a 100 mL round bottomed flask was added, indole-5-carboxylic acid (3.57 g, 22.2 mmol), powdered sodium hydrogen carbonate (5.95 g, 70.83 mmol), methyl iodide (5.95 mL, 95.6 mmol) and DMF (25 mL). The mixture was stirred for 72 h under an atmosphere of nitrogen, whereupon water (20 mL) and ethyl acetate (40 mL) was added. The phases were then partitioned and the aqueous phase extracted with ethyl acetate (40 mL). The combined organics were washed with aqueous sodium hydrogen carbonate, dried (sodium sulfate) and concentrated to furnish a white solid (3.88 g, 99%). 1H NMR (400 MHz, Acetone d6, δ in ppm) 10.61 (br s, 1H), 8.38 (s, 1H), 7.81 (dd, J=8.6 and 1.5 Hz), 7.51 (1 H, d, J=8.6 Hz), 7.46 (m, 1H), 6.65-6.63 (1H, m) and 3.87 (3H, s).

reactant | indole-5-carboxylic acid | 22.2 mmol, 3.57 g | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
reactant | sodium hydrogen carbonate | 70.83 mmol, 5.95 g | C(O)([O-])=O.[Na+]
reactant | methyl iodide | 95.6 mmol, 5.95 mL | CI | CH3I
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
product | Methyl 1H-indole-4-carboxylate | 3.88 g, 99% | N1C=CC=2C(=CC=CC12)C(=O)OC | C10H9NO2
